* ============================================
* Test: monte_carlo_hold.spice
* Cell: 9T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-07-14
* Monte Carlo mismatch-only hold SNM yield sweep.
* Corner/temp/VDD come entirely from pvt.spice (driven by the Python
* PVT sweep) - this deck does not hardcode a corner.
* ============================================

* -- includes --
.include /workspace/analog/characterization/pvt.spice
.include /workspace/analog/testbench/9T_open_tb.spice

* -- mismatch-only MC --
* Global process variation is already fixed by the PVT corner .lib call
* above (in pvt.spice) - enabling sw_stat_global too would double-count
* it, so only per-instance mismatch is turned on here.
.param sw_stat_mismatch=1
.param sw_stat_global=0

* -- stimulus --
VVDD vdd 0 {VDD_CORNER}   ; supply
VVSS vss 0 0              ; source
VWL  wl  0 0              ; hold: OFF
VU   u   0 0              ; input voltage to be swept
VA   a   0 {VDD_CORNER}   ; set Activation = HI

* -- initial conditions --
.ic v(q)={VDD_CORNER} v(qb)=0         ; initial state: Q=1, QB=0
.ic v(wbl)=0.1 v(wblb)=0.1   ; initial state pre-charged to 0.1V - common for idle power reduction

* -- SNM rotation transformation --
BV1 v1   0 v= sqrt(2)*v(q)+v(u)
BV2 v2   0 v= sqrt(2)*v(qb)-v(u)
BQ  qin  0 v=(v(v1)+v(u))* 1/sqrt(2)  ; input to inverter Q
BQB qbin 0 v=(v(v2)-v(u))* 1/sqrt(2)  ; input to inverter QB

* .control params
.csparam VDD_CORNER={VDD_CORNER}

.option noacct
* -- analysis --
.control
  save all

  * --- Monte Carlo loop ---
  * each pass: reset (forces every agauss()-based mismatch term in the
  * PDK subckts to redraw), sweep, measure, print one greppable sample.
  * Non-convergent passes are skipped (not counted as samples) and
  * tallied so the effective sample size is known at the end.
  let nruns = 1000
  let n = 0
  let n_skipped = 0

  dowhile n < nruns

    reset

    * --- DC sweep the original input voltage ---
    let VDD_HALF_HI={VDD_CORNER} / 2
    let VDD_HALF_LO={VDD_CORNER} / -2
    dc VU $&VDD_HALF_LO $&VDD_HALF_HI 0.01

    if $sim_status = 0
      * --- variables for SNM calculation ---
      let diff = (v(v1) - v(v2))/sqrt(2)

      * --- measure data ---
      meas DC hold_snm_max MAX diff
      meas DC hold_snm_min MIN diff
      let mc_snm = min(abs(hold_snm_max), abs(hold_snm_min))

      * --- greppable per-run sample: "mc_snm = <value>" ---
      print mc_snm
    else
      echo "run $&n: DC sweep did not converge - skipped"
      let n_skipped = n_skipped + 1
    end

    let n = n + 1
  end

  let n_valid = nruns - n_skipped
  echo
  echo "Monte Carlo done: nruns=$&nruns  skipped=$&n_skipped  effective_samples=$&n_valid"

.endc

.end
