* ============================================
* Test: read_delay.spice
* Cell: 9T_03v3
* PDK: GF180mcuD
* ============================================
* Compute/read-port access delay: cell holds W=1 (Q=VDD), write port off,
* Activation (A) is pulsed like a read-enable. Reports the A -> RBL
* propagation delay through the M1/M2 read buffer. CRBL mirrors the 20fF
* bitline load already used for WBL/WBLB in read_run.spice -- there's no
* explicit RBL load anywhere else in this repo, so this is the closest
* precedent for a per-cell bitline capacitance.

* -- includes --
.include /workspace/analog/characterization/pvt.spice
.include /workspace/analog/testbench/9T_tb.spice

* -- stimulus --
VVDD vdd  0 {VDD_CORNER}
VVSS vss  0 0
VWL  wl   0 0                                              ; write port off
VBL  wbl  0 0
VBLB wblb 0 0
VA   a    0 PULSE(0 {VDD_CORNER} 5n 0.1n 0.1n 20n 50n)     ; activation pulsed
CRBL rbl  0 20f                                            ; bitline load

* -- initial conditions --
.ic v(q)={VDD_CORNER} v(qb)=0    ; W=1 stored

* .control params -- {} substitution inside .control needs a .csparam bridge
.csparam VDD_CORNER={VDD_CORNER}

* -- sim --
.control
  save all

  tran 0.1n 50n uic

  * --- A -> RBL propagation delay ---
  echo
  meas tran t_read TRIG v(a) VAL={VDD_CORNER}/2 RISE=1 TARG v(rbl) VAL={VDD_CORNER}/2 RISE=1
  echo

  * --- save .raw for python parsing ---
  write /workspace/analog/characterization/9t/results/read_delay.raw all

.endc

.end
